US06897224B2
1-(2-Aminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
A solution of 535 mg (1.05 mmol) of 1-(2-acetylaminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol in 18 ml of EtOH-THF (2:1) is refluxed with 12 ml of 3N sodium hydroxide solution for 90 minutes. The batch is diluted with saturated NaCl and extracted with ethyl acetate. The extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with ethyl acetate yields 380 mg of the product as a yellow oil.

reactant | 1-(2-acetylaminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 1.05 mmol, 535 mg | C(C)(=O)NC1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C25H27F4N3O3
reactant | sodium hydroxide | 3N, 12 ml | [OH-].[Na+]
solvent | EtOH THF | 18 ml | CCO.C1CCOC1
solvent | NaCl | [Na+].[Cl-]
product | 1-(2-Aminoquinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 380 mg | NC1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H25F4N3O2
